US04968717
A mixture of 29.0 g (0.1 mole) of 2-(3,5-dimethoxyphenyl)-2-isopropyl-5-methylaminovaleronitrile (prepared by reacting α-isopropyl-3,5-dimethoxyphenylacetonitrile and 3-methylformamido-1-chloropropane in the presence of sodium hydride and then eliminating the formyl group by means of hydrochloric acid) and 18.8 g (0.1 mole) of 3-trifluoromethylphenylacetaldehyde was reduced catalytically with 400 mg of 5% strength palladium on carbon in 100 ml of toluene under atmospheric pressure at from 25 to 30° C. for 20 hours. After the catalyst had been removed, the toluene solution was washed several times with water and dried with potassium carbonate, after which the toluene was distilled off. The residue was dissolved in isopropanol, and ethanolic hydrochloric acid was added. Crystallization from isopropanol gave 39.9 g (80%) of 5-[(3-trifluoromethylphenethyl)-methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile of melting point 136°-138° C.

reactant | 2-(3,5-dimethoxyphenyl)-2-isopropyl-5-methylaminovaleronitrile | 0.1 mole, 29.0 g | COC=1C=C(C=C(C1)OC)C(C#N)(CCCNC)C(C)C | C17H26N2O2
reactant | α-isopropyl-3,5-dimethoxyphenylacetonitrile | C(C)(C)C(C#N)C1=CC(=CC(=C1)OC)OC | C13H17NO2
reactant | 3-methylformamido-1-chloropropane | CC(=O)NCCCCl | C5H10ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | 3-trifluoromethylphenylacetaldehyde | 0.1 mole, 18.8 g | FC(C=1C=C(C=CC1)CC=O)(F)F | C9H7F3O
catalyst | palladium on carbon | [Pd] | Pd
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[(3-trifluoromethylphenethyl)-methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile | 39.9 g, 80% | FC(C=1C=C(CCN(CCCC(C#N)(C(C)C)C2=CC(=CC(=C2)OC)OC)C)C=CC1)(F)F | C26H33F3N2O2
